US05051413
The starting material is manufactured as follows: By reaction of isocyanoacetic acid ethyl ester with 2-benzyl-propenal in a manner analogous to that described in Example 1 and after purification by column chromatography (silica gel; dichloromethane/ethyl acetate 98:2), 5-(3-phenyl-propen-2-yl)-2-oxazoline-4-carboxylic acid ethyl ester is obtained in the form of a colourless oil, 1H-NMR (CDCl3): 3.33 (s, 2H, CH2); 4.37 (dd, 1H, C(4)--H); 4.87 (s, 1H); 5.07 (dd, 1H, C(5)--H); 5.16 (s, 1H).

reactant | isocyanoacetic acid ethyl ester | C(C)OC(C[N+]#[C-])=O | C5H7NO2
reactant | 2-benzyl-propenal | C(C1=CC=CC=C1)C(C=O)=C | C10H10O
product | 5-(3-phenyl-propen-2-yl)-2-oxazoline-4-carboxylic acid ethyl ester | C(C)OC(=O)C1N=COC1C(=C)CC1=CC=CC=C1 | C15H17NO3
